US07943642B2
Step C Synthesis of [(6-chloro(3-pyridyl))methyl](2-chloroethyl)[(4-methoxyphenyl)methyl]amine as an intermediate
A solution of 6.8 grams (0.022 mole) of 2-{[(6-chloro(3-pyridyl)methyl][(4-methoxyphenyl)methyl]amino}ethan-1-ol in 200 mL of chloroform was stirred and a solution of 2.9 grams (0.024 mole) of thionyl chloride in 50 mL of chloroform was added dropwise. Upon completion of addition, the reaction mixture was stirred at ambient temperature during one hour, and then it was warmed to reflux where it stirred for 2.5 hours. After this time the reaction mixture was cooled to room temperature and was slowly poured into a solution of 100 mL of aqueous 5% sodium carbonate. The organic layer was separated and dried with sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel. Elution was accomplished using 2% diethyl ether in methylene chloride as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 6.4 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | [(6-chloro(3-pyridyl)methyl][(4-methoxyphenyl)methyl]amino}ethan-1-ol | ClC1=CC=C(C=N1)CN(CC1=CC=C(C=C1)OC)C(C)O | C16H19ClN2O2
reactant | thionyl chloride | 0.024 mole, 2.9 grams | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | [(6-chloro(3-pyridyl))methyl](2-chloroethyl)[(4-methoxyphenyl)methyl]amine | 6.4 grams | ClC1=CC=C(C=N1)CN(CC1=CC=C(C=C1)OC)CCCl | C16H18Cl2N2O
